US07345063B2
A) 5-Chloro-2-(3-pyrrolidinyloxy) pyridine
To a stirred solution of 5-chloro-2-pyridinol (323.9 mg; 2.5 mmol), tert-butyl 3-hydroxy-1-pyrrolidinecarboxylate (468.0 mg, 2.5 mmol) and triphenylphosphine polymer bound (1 g, 3 mmol) in THF/CH2Cl2 (1:1, 5 ml) slowly was added diethyl azodicarboxylate (435.5 mg 2.5 mmol). The solution was slowly stirred overnight Resin was then removed by filtration and washed with THF. The combined filtrates were evaporated to dryness. The resulting residue was purified by RP-HPLC (10-40% CH3CN). The pure material was treated with 95% TFA/5% H2O, 30 min. The TFA phase was then evaporated to give the desired product as a solid.

reactant | 5-chloro-2-pyridinol | 2.5 mmol, 323.9 mg | ClC=1C=CC(=NC1)O | C5H4ClNO
reactant | tert-butyl 3-hydroxy-1-pyrrolidinecarboxylate | 2.5 mmol, 468.0 mg | OC1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.5 mmol, 435.5 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF CH2Cl2 | 5 ml | C1CCOC1.C(Cl)Cl
product | 5-Chloro-2-(3-pyrrolidinyloxy) pyridine | ClC=1C=CC(=NC1)OC1CNCC1 | C9H11ClN2O
